US07384967B2
To a solution of 2-phenoxy-N-(t-butoxycarbonyl)aniline (1.43 g, 5.0 mmol) in anhydrous tetrahydrofuran (50 ml) was added lithium aluminumhydride (10 ml, 10.0 mmol, 1.0 M solution in tetrahydrofuran) at −10° C. The mixture was then refluxed at 65° C. overnight. The reaction mixture was quenched with slow addition of MeOH (10 ml) and concentrated under reduced pressure. The reaction mixture was then poured into water (50 ml) and extracted with ethyl acetate (3×100 ml). Organic extracts were combined and washed with brine (2×100 ml) and dried over (Na2SO4), concentrated under reduced pressure to give N-methyl-2-phenoxyaniline (0.94 g, 94.0%) as a pale yellow oil. The product was confirmed by LC-MS and subjected to next reaction without further purification.

reactant | 2-phenoxy-N-(t-butoxycarbonyl)aniline | 5.0 mmol, 1.43 g | O(C1=CC=CC=C1)C1=C(NC(=O)OC(C)(C)C)C=CC=C1 | C17H19NO3
reactant | lithium | [Li] | Li
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-methyl-2-phenoxyaniline | 0.94 g, 94.0% | CNC1=C(C=CC=C1)OC1=CC=CC=C1 | C13H13NO
